US04655883
After electrolysis, the crude electrolyte contains 3.5% of educt, 27.6% of dimethyl biphenyl-2-phosphonate and 32% of dimethyl biphenyl-4-phosphonate (in % by area), and is worked up analogously to Example 4. Distillation gives 1.25 g of biphenyl and 19.44 g (81%) of a mixture of the products. The current efficiency is 46%.

reactant | dimethyl biphenyl-2-phosphonate | C=1(C(=CC=CC1)P(OC)(=O)OC)C1=CC=CC=C1 | C14H15O3P
reactant | dimethyl biphenyl-4-phosphonate | C1(=CC=C(C=C1)P(OC)(=O)OC)C1=CC=CC=C1 | C14H15O3P
product | biphenyl | 1.25 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
